US06231833B1
(7S,9aS)-7-(4-Fluorophenoxy)methyl-2-(5-fluoropyrimidin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine
A solution of 0.82 g (3.08 mmol) of (7S,9aS)-7-hydroxymethyl-2-(5-fluoropyrimidin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine (Preparation 13), 0.52 g (4.62 mmol) of 4-fluorophenol, 0.97 g (3.70 mmol) of triphenylphosphine in dry THF was treated with 0.64 g (3.70 mmol) of diethyl azodicarboxylate and stirred at room temperature for 72 h. The solvent was evaportated, the residue dissolved in 50:50 ethyl acetate:ethyl ether, and treated with HCl(g) in ethyl ether until precipitation ceased. The solid was collected by filtration, dissolved in chloroform, 1M sodium hydroxide was added, and the layers were separated. The organic layer was dried (magnesium sulfate), filtered and evaporated. Purification by flash silica gel chromatography with 90:10 hexane:ethyl acetate gave 0.49 g (44%) of the title compound. mp (—HCl) 225-228° C. 13C NMR (base, CDCl3): δ24.8, 25.2, 33.8, 44.3, 49.7, 54.8, 56.6, 61.0, 69.5, 115.48, 115.53, 115.59, 115.83, 144.97, 145.26, 149.85, 153.15, 155.42, 155.54, 158.69, 158.74. HRMS calcd for C19H22F2N4O: 360.1762, found: 360.1752.

reactant | (7S,9aS)-7-hydroxymethyl-2-(5-fluoropyrimidin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 3.08 mmol, 0.82 g | OC[C@H]1CC[C@@H]2N(CCN(C2)C2=NC=C(C=N2)F)C1 | C13H19FN4O
reactant | 4-fluorophenol | 4.62 mmol, 0.52 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | triphenylphosphine | 3.70 mmol, 0.97 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 3.70 mmol, 0.64 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | (7S,9aS)-7-(4-Fluorophenoxy)methyl-2-(5-fluoropyrimidin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 0.49 g, 44% | FC1=CC=C(OC[C@H]2CC[C@@H]3N(CCN(C3)C3=NC=C(C=N3)F)C2)C=C1 | C19H22F2N4O
